US07625914B2
2.5 ml (2.5 mmol) of ethanolic 1M hydrochloric acid solution are added dropwise to a solution of 1.1 g (2.5 mmol) of 2(S)-ethoxy-3-{4-[6-(3-heptyl-1-methylureido)pyrid-2-yl]phenyl}propanoic acid in 2 ml of ethanol, cooled to 0° C. The reaction medium precipitates. After filtration, the precipitate is washed with acetone and with ethyl ether and then dried. After hot recrystallization from a 9/1 acetone/water mixture, 0.6 g (60%) of 2(S)-ethoxy-3-{4-[6-(3-heptyl-1-methylureido)pyrid-2-yl]phenyl}propanoic acid hydrochloride is obtained in the form of a white solid with a melting point of 166° C.

reactant | hydrochloric acid | 1M | Cl | ClH
reactant | 2(S)-ethoxy-3-{4-[6-(3-heptyl-1-methylureido)pyrid-2-yl]phenyl}propanoic acid | 2.5 mmol, 1.1 g | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=CC=C1)N(C(=O)NCCCCCCC)C | C25H35N3O4
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2(S)-ethoxy-3-{4-[6-(3-heptyl-1-methylureido)pyrid-2-yl]phenyl}propanoic acid hydrochloride | 0.6 g, 60% | Cl.C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=CC=C1)N(C(=O)NCCCCCCC)C | InChI=1S/C25H35N3O4.ClH/c1-4-6-7-8-9-17-26-25(31)28(3)23-12-10-11-21(27-23)20-15-13-19(14-16-20)18-22(24(29)30)32-5-2;/h10-16,22H,4-9,17-18H2,1-3H3,(H,26,31)(H,29,30);1H/t22-;/m0./s1
